// Library name: PLAYGROUND_LLM
// Cell name: rc_unit
// View name: schematic
subckt rc_unit IN OUT VSS
    C0 (OUT VSS) capacitor c=1e-12
    R0 (IN OUT) resistor r=1000
ends rc_unit
// End of subcircuit definition.

// Library name: PLAYGROUND_LLM
// Cell name: rc_cascade_2
// View name: schematic
subckt rc_cascade_2 VIN VOUT VSS
    X2 (MID VOUT VSS) rc_unit
    X1 (VIN MID VSS) rc_unit
ends rc_cascade_2
// End of subcircuit definition.

// Library name: PLAYGROUND_LLM
// Cell name: tb_rc_cascade
// View name: schematic
X_DUT (VIN VOUT VSS) rc_cascade_2
V1 (VIN VSS) vsource mag=1 type=sine
